* D:\Semester 3\Lab\Analog ECG Monitor\Simulations\Notch Filter\Filter Testing.asc
* Generated by LTspice 24.1.8 for Windows.
X§U1 0 N001 +6V -6V N004 ADTL082
X§U2 N005 N003 +6V -6V N002 ADTL082
V1 0 -6V 6V
V2 +6V 0 6V
V3 N006 0 AC 1
R§VR_10k N001 N006 6.8k tol=5 pwr=0.25
R2 N004 N001 47k tol=5 pwr=0.25
C1 N004 N005 0.68µ V=50
R3 N004 N005 4.7k tol=5 pwr=0.25
R4 N003 N004 100k tol=5 pwr=0.25
C2 N005 N007 0.68µ V=50
R5 N007 0 4.7k tol=5 pwr=0.25
R6 N002 N003 200k tol=5 pwr=0.25
R7 N002 N001 8.2k tol=5 pwr=0.25
V4 Vin 0 SINE(0 0.001 50)
.ac dec 1000 1m 1meg
.meas AC gain AVG mag(V(n002)) FROM 10m TO 10
.meas AC f1 FIND frequency WHEN mag(V(n002))=gain/sqrt(2) FALL=last
.meas AC f2 FIND frequency WHEN mag(V(n002))=gain/sqrt(2) RISE=1
* .tran 500m
* .step param freq 1 100 0.1
.meas TRAN Vpeak MAX V(n002)
.meas TRAN Vin MAX V(vin)
.meas TRAN Vout MAX V(n002)
.meas TRAN ratio PARAM Vout/Vin
.meas TRAN Gn param 20*log10(ratio)
.lib ADI.lib
.backanno
.end
